US07592363B2
5-{4-[2-(4-CHLORO-2-FLUOROBENZYL)-7-(TRIFLUOROMETHYL)-2H-INDAZOL-3-YL]PHENOXY}-1,2,3,4-TETRAHYDRONAPHTHALEN-1-OL
5-{4-[2-(4-chloro-2-fluorobenzyl)-7-(trifluoromethyl)-2H-indazol-3-yl]phenoxy}-3,4-dihydronaphthalen-1(2H)-one (330 mg, 0.58 mmol) dissolved in 10 mL of EtOH was added to a slurry of NaBH4 in EtOH and stirred at room temperature overnight. The reaction mixture was quenched with H2O and stirred for 15 min. Filtration of the mixture was followed by extraction with CH2Cl2. The combined organic phases were dried, evaporated and the crude material was purified by HPLC using a gradient with an acidic mobile phase on an ACE-C8 column to afford a racemic mixture. Separation of the two enatiomers afforded the analytically pure products of this Example 903 and Example 936.

reactant | 5-{4-[2-(4-chloro-2-fluorobenzyl)-7-(trifluoromethyl)-2H-indazol-3-yl]phenoxy}-3,4-dihydronaphthalen-1(2H)-one | 0.58 mmol, 330 mg | ClC1=CC(=C(CN2N=C3C(=CC=CC3=C2C2=CC=C(OC3=C4CCCC(C4=CC=C3)=O)C=C2)C(F)(F)F)C=C1)F | C31H21ClF4N2O2
reactant | NaBH4 | [BH4-].[Na+]
solvent | EtOH | 10 mL | CCO | C2H6O
product | 5-{4-[2-(4-CHLORO-2-FLUOROBENZYL)-7-(TRIFLUOROMETHYL)-2H-INDAZOL-3-YL]PHENOXY}-1,2,3,4-TETRAHYDRONAPHTHALEN-1-OL | ClC1=CC(=C(CN2N=C3C(=CC=CC3=C2C2=CC=C(OC3=C4CCCC(C4=CC=C3)O)C=C2)C(F)(F)F)C=C1)F | C31H23ClF4N2O2
